US04795755
N-Acetylamino-5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramidine (0.55 g.) was heated at 170° for 12 minutes. The resulting glass was boiled with acetone and the solid obtained crystallised from acetonitrile to give 3-methyl-5-(4-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]butyl)-1,2,4-triazole as a white solid (0.34 g., 65%), m.p. 175°-176°.

reactant | N-Acetylamino-5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramidine | 0.55 g | C(C)(=O)NNC(CCCCN1N=C(N=C1)NC(=NCC(F)(F)F)N)=N | C12H20F3N9O
solvent | acetone | CC(=O)C | C3H6O
product | 3-methyl-5-(4-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]butyl)-1,2,4-triazole | CC1=NNC(=N1)CCCCN1N=C(N=C1)NC(=NCC(F)(F)F)N | C12H18F3N9
